US05877190
Step A: 2-Bromo-4-(4-pyridylmethyl)aniline
A solution of 18.34 g (0.103 mol) of N-bromosuccinimide in 60 ml of dimethylformamide is added dropwise, shielded from light, to a solution of 20 g (0.1084 mol) of 4-(4-pyridylmethyl)aniline in 180 ml of dimethylformamide. After 1 hour, the solvent is evaporated off under reduced pressure and the solid is taken up in 200 ml of dichloromethane. The solution is subsequently washed with 100 ml of water and then with 100 ml of a saturated sodium chloride solution. After customary treatment of the organic phase, an oil is obtained which is taken up in 500 ml of diethyl ether, and the whole is left in a refrigerator for 2 days. After filtration, the expected product is obtained.

reactant | N-bromosuccinimide | 0.103 mol, 18.34 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-(4-pyridylmethyl)aniline | 0.1084 mol, 20 g | N1=CC=C(C=C1)CC1=CC=C(N)C=C1 | C12H12N2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 2-Bromo-4-(4-pyridylmethyl)aniline | BrC1=C(N)C=CC(=C1)CC1=CC=NC=C1 | C12H11BrN2
